US06809199B2
To a stirred solution of 2-chloro-3-methyl-5-nitropyridine (prepared according to the procedure of Hawkins and Roe, J. Am. Chem. Soc., page 330, 1948) (5.3 g, 30.7 mmol, 1 eq.) in 1,2-dimethoxyethane (50 mL) and ethanol (25 mL) was added 2-chloro-4-fluorobenzeneboronic acid (5.9 g, 33.8 mmol, 1.1 eq.). The resulting mixture was degassed with argon. To the mixture was added a solution of Na2CO3 (11.4 g, 107.45 mmol, 3.5 eq) in water (50 mL). The mixture was degassed with argon, and tetrakis(triphenylphosphine)palladium(0) (1.1 g, 0.95 mmol, 0.03 eq) was added. The mixture was degassed with argon and heated to 90° C. under argon. After 4.5 h, the mixture was cooled. The solvent was removed under reduced pressure. The residue was diluted with water and extracted 3× with ethyl acetate. The aqueous layer was extracted several times with ethyl acetate. The organic extracts were combined, dried over anhydrous Na2SO4, filtered and concentrated. The product was purified by flash column chromatography on silica gel eluting with 5% Et2O in hexanes giving 2-(2-chloro-4-fluorophenyl)-3-methyl-5-nitropyridine. Mass spectrum (EST) 267 (M+1).

reactant | 2-chloro-3-methyl-5-nitropyridine | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
reactant | ethanol | 25 mL | C(C)O | C2H6O
reactant | 2-chloro-4-fluorobenzeneboronic acid | 33.8 mmol, 5.9 g, 1.1 eq. | ClC1=C(C=CC(=C1)F)B(O)O | C6H5BClFO2
reactant | Na2CO3 | 107.45 mmol, 11.4 g, 3.5 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
solvent | water | 50 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.95 mmol, 1.1 g, 0.03 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-chloro-4-fluorophenyl)-3-methyl-5-nitropyridine | ClC1=C(C=CC(=C1)F)C1=NC=C(C=C1C)[N+](=O)[O-] | C12H8ClFN2O2
